US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-(4-fluoro-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one was condensed with 4-(4-fluoro-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde in ethanol and piperidine to give the titled compound as an orange solid.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-(4-fluoro-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | FC1CCN(CC1)CC=1C(=C(NC1C)C=O)C | C13H19FN2O
solvent | ethanol | C(C)O | C2H6O
solvent | piperidine | N1CCCCC1 | C5H11N
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[4-(4-fluoro-piperidin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CN1CCC(CC1)F)C | C28H28Cl2FN3O3S
